US04658013
A solution of [3-dimethylamino-N2 -(t-butoxycarbonyl)-D-alanyl]-N-(3-methylbutyl)-L-phenylalaninamide (1.84 g.) in acetic acid saturated with hydrogen chloride (50 ml.) was stirred for one and one half hours at room temperature, then stripped of volatiles under vacuum. A solution of the residue (1.87 g.) in ethyl acetate was washed with saturated aqueous sodium bicarbonate, then saturated aqueous sodium chloride, and filtered. Hydrogen chloride (8.2 millimoles) in ethanol was added and the solution was stripped of volatiles, affording (3-dimethylamino-D-alanyl)-N-(3-methylbutyl)-L-phenylalaninamide dihydrochloride as a gum.

reactant | [3-dimethylamino-N2 -(t-butoxycarbonyl)-D-alanyl]-N-(3-methylbutyl)-L-phenylalaninamide | 1.84 g | CN(C[C@@H](NC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCC(C)C)C | C24H40N4O4
reactant | hydrogen chloride | 50 ml | Cl | ClH
reactant | Hydrogen chloride | 8.2 millimoles | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | (3-dimethylamino-D-alanyl)-N-(3-methylbutyl)-L-phenylalaninamide dihydrochloride | Cl.Cl.CN(C[C@@H](N)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCC(C)C)C | InChI=1S/C19H32N4O2.2ClH/c1-14(2)10-11-21-19(25)17(12-15-8-6-5-7-9-15)22-18(24)16(20)13-23(3)4;;/h5-9,14,16-17H,10-13,20H2,1-4H3,(H,21,25)(H,22,24);2*1H/t16-,17+;;/m1../s1
